US08859571B2
A mixture of 2-fluoro-N-methyl-5-nitro-4-[(2,2,2-trifluoroethyl)oxy]benzene-sulfonamide (10 g, 30.1 mmol) in MeOH (150 mL) was treated with 10% Pd/C (1 g) and stirred under H2 (45 psi) at 45° C. for 10 hours before being filtered. The filtrate was concentrated to give 5-amino-2-fluoro-N-methyl-4-[(2,2,2-trifluoroethyl)oxy]benzene-sulfonamide (8 g, 88%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.40 (q, J=5.07 Hz, 1 H), 7.10 (d, J=11.69 Hz, 1 H), 7.05 (d, J=7.28 Hz, 1 H), 5.04 (s, 2 H), 4.83 (q, J=8.82 Hz, 2 H), 2.42 (d, J=4.41 Hz, 3 H). MS (m/z) 303.0 (M+H+).

reactant | 2-fluoro-N-methyl-5-nitro-4-[(2,2,2-trifluoroethyl)oxy]benzene-sulfonamide | 30.1 mmol, 10 g | FC1=C(C=C(C(=C1)OCC(F)(F)F)[N+](=O)[O-])S(=O)(=O)NC | C9H8F4N2O5S
solvent | MeOH | 150 mL | CO | CH4O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 5-amino-2-fluoro-N-methyl-4-[(2,2,2-trifluoroethyl)oxy]benzene-sulfonamide | 8 g, 88% | NC=1C(=CC(=C(C1)S(=O)(=O)NC)F)OCC(F)(F)F | C9H10F4N2O3S
